### PR TITLE
[Merged by Bors] - refactor: generalize semicontinuity

### PR DESCRIPTION
**Pull request by j-loreaux**
This PR redefines (although defeq to the original) upper and lower semicontinuity in terms of a new predicate `Semicontinuous` which takes a relation `r : α → β → Prop` instead of a function `f : α → β`. We say that a relation `r` is *semicontinuous at `x` within `s`* if `∀ y, r x y → ∀ᶠ x' in 𝓝[s], r x' y`. In other words, if the relation holds for a pair `x : α` and `y : β`, then it also holds for all `x'` (with the same `y`) sufficiently near to `x` within `s`. To recover lower or upper semicontinuity, the relation chosen is `r := (f · > ·)` or `r := (f · < ·)`, respectively. Note that semicontinuity of `r` at `x` within `s` is equivalent to `∀ y, (∃ᶠ x' in 𝓝[s] x, ¬ r x' y) → ¬ r x y`, so one may freely switch between the eventual or the frequent characterization at the cost of negation of the relation `r`.

The purpose behind this refactor is to allow a common definition not only for lower and upper semicontinuity, but also for lower and upper hemicontinuity (for those unfamiliar, this should be thought of as lower and upper semicontinuity for set-valued functions). This was discussed on Zulip a while ago here: [#maths > upper hemicontinuity vs. upper semicontinuity](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/upper.20hemicontinuity.20vs.2E.20upper.20semicontinuity/with/563527801). Although the number of lemmas shared between all versions is not particularly high, it's nice to avoid some boilerplate, and to show that all these concepts can be unified.

Given a set-valued function `f : α → Set β`, lower hemicontinuity is defined as semicontinuity of the relation `fun (x : α) (s : Set β) ↦ IsOpen s ∧ (f x ∩ s).Nonempty`. So, `f` is lower hemicontinuous if, for any open set `s`, if `f x` intersects `s`, then so does `f x'` for all `x'` sufficiently close to `x`. Upper hemicontinuity is defined as semicontinuity of the relation `fun (x : α) (s : Set β) ↦ s ∈ 𝓝ˢ (f x)`. So, `f` is upper hemicontinuous if any neighborhood of (the set) `f x` is also a neighborhood of `f x'` for `x'` sufficiently close to `x`. As a final note, sometimes one considers *metric upper hemicontinuity*, which is yet another concept that can be unified under this framework (although not included in this PR), which is semicontinuity under the relation `fun x s ↦ ∃ δ > 0, Metric.thickening (f x) δ ⊆ s`.

In this PR, we also provide some basic lemmas about upper and lower hemicontinuity which characterize it in terms of preimages, analogous to some characterizations of upper and lower semicontinuity. One very common example of an upper hemicontinuous function is `spectrum 𝕜 : A → Set 𝕜`, where `A` is a Banach `𝕜`-algebra. This fact will be established in a follow-up PR.

The structure of this PR is as follows:

1. Create a new folder / file `Topology/Semicontinuity/Defs.lean` which contains the new `Semicontinuous` predicate. In addition, this file provides the boilerplate and definitions of `LowerSemicontinuous`, `UpperSemicontinuous`, `LowerHemicontinuous` and `UpperHemicontinuous`.
2. The remaining material in `Topology/Semicontinuous.lean` is moved to `Topology/Semicontinuity/Basic.lean` (and so the former file is deleted).
3. Some fundamental results about hemicontinuity are added in `Topology/Semicontinuity/Hemicontinuity.lean`.

As a final note, in [#maths > Semicontinuity definition for non-linear orders](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Semicontinuity.20definition.20for.20non-linear.20orders/with/436241797) it was suggested that lower semicontinuity be redefined: 

```lean
-- current definition
def LowerSemicontinuous (f : α → β) := ∀ x y, y < f x → ∀ᶠ x' in 𝓝 x, y < f x'

-- definition proposed in the Zulip thread, equivalent in the linear order case
def LowerSemicontinuous (f : α → β) := ∀ x y, (∃ᶠ x' in 𝓝 x, f x' ≤ y) → f x ≤ y
```

This change *is* compatible with the changes made in this PR (there is an `example` in the source emphasizing this), but this is not implemented here.

---

I will split this if the general idea receives approval.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Semicontinuity/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,753 @@
...
+
+variable [TopologicalSpace β]
+
+section Definitions
+
+/-- A real function `f` is lower semicontinuous at `x` within a set `s` if, for any `ε > 0`, for all
+`x'` close enough to `x` in `s`, then `f x'` is at least `f x - ε`. We formulate this in a general
+preordered space, using an arbitrary `y < f x` instead of `f x - ε`. -/
+abbrev LowerHemicontinuousWithinAt (f : α → Set β) (s : Set α) (x : α) :=
+  SemicontinuousWithinAt (fun x s ↦ IsOpen s ∧ ((f x) ∩ s).Nonempty) s x
```
Comment (alreadydone) [inline Mathlib/Topology/Semicontinuity/Defs.lean]: Docstrings need to be changed? Also L559-563, L656-660
```suggestion
/-! ## Lower and Upper Hemicontinuity -/

variable [TopologicalSpace β]

section Definitions

abbrev LowerHemicontinuousWithinAt (f : α → Set β) (s : Set α) (x : α) :=
  SemicontinuousWithinAt (fun x s ↦ IsOpen s ∧ (f x ∩ s).Nonempty) s x
```

File: Mathlib/Topology/Semicontinuity/Basic.lean [hunk 2]
```diff
@@ -5,39 +5,34 @@ Authors: Sébastien Gouëzel, Antoine Chambert-Loir, Anatole Dedecker
...
 module
 
+public import Mathlib.Topology.Semicontinuity.Defs
 public import Mathlib.Algebra.GroupWithZero.Indicator
 public import Mathlib.Topology.Piecewise
 public import Mathlib.Topology.Instances.ENNReal.Lemmas
 
 /-!
-# Semicontinuous maps
+# Lower and Upper Semicontinuity maps
```
Comment (vihdzp) [inline Mathlib/Topology/Semicontinuity/Basic.lean]: This reads a bit weirdly?
```suggestion
# Lower and Upper Semicontinuity
```

File: Mathlib/Topology/Semicontinuity/Basic.lean [hunk 3]
```diff
@@ -65,144 +52,26 @@ ones for lower semicontinuous functions using `OrderDual`.
 * <https://en.wikipedia.org/wiki/Closed_convex_function>
 * <https://en.wikipedia.org/wiki/Semi-continuity>
 
+
++ lower and upper semicontuity correspond to `r := (f · > ·)` and `r := (f · < ·)`;
```
Comment (ocfnash) [inline Mathlib/Topology/Semicontinuity/Basic.lean]: Let's save a future PR from Harald:
```suggestion
+ lower and upper semicontinuity correspond to `r := (f · > ·)` and `r := (f · < ·)`;
```

**Review by ocfnash — APPROVED** [review]
This is a very large PR but I think we can merge it as-is.

Besides my remarks [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/upper.20hemicontinuity.20vs.2E.20upper.20semicontinuity/near/564219528) I have the following to say:

1. The changes are much smaller they look when we take into account that quite a lot of material is just being moved around, and that the additions are following a now-standard API (set out originally for continuity).
2. The very large amount of boilerplate in the `Defs` file is yet another example of code that should really be written by a computer rather than a human.
3. I think we should add two more small lemmas to the `Hemicontinuity` file showing that this concept captures the notions of open and closed maps (see below).
4. We should follow up with module deprecations.

```lean
lemma isClosedMap_iff_upperHemicontinuous {f : α → β} :
    IsClosedMap f ↔ UpperHemicontinuous (f⁻¹' {·}) := by
  rw [isClosedMap_iff_kernImage, upperHemicontinuous_iff_isOpen_preimage_Iic]
  aesop

lemma isOpenMap_iff_lowerHemicontinuous {f : α → β} :
    IsOpenMap f ↔ LowerHemicontinuous (f⁻¹' {·}) := by
  rw [isOpenMap_iff_kernImage, lowerHemicontinuous_iff_isClosed_preimage_Iic]
  aesop
```
I think it would be nice to include a link to these lemmas in the doc strings of `isClosedMap_iff_kernImage` and `isOpenMap_iff_kernImage`.

bors d+

**Comment by j-loreaux** [comment]
bors merge
